US07229986B2
Sodium borohydride (0.75 g) was added to a solution of 1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)-3-(dimethylamino)-1-propanone (4.3 g) obtained in Reference Example 12 in methanol (40 ml) under cooling with ice-bath, and the mixture was stirred at 0 to 5° C. for 30 minutes. After iced water was added to the reaction solution, the solvent was distilled away under reduced pressure, and the residues were extracted with ethyl acetate. The extract was washed with a saturated saline solution and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The resultant residues were purified by alumina column chromatography (developing solvent; ethyl acetate), whereby 3-[1-acetyl-2,3-dihydro-1H-indol-5-yl]-3-hydroxy-N,N-dimethyl-1-propanamine (3.3 g) was obtained as colorless powder.

reactant | Sodium borohydride | 0.75 g | [BH4-].[Na+]
reactant | 1-(1-acetyl-2,3-dihydro-1H-indol-5-yl)-3-(dimethylamino)-1-propanone | 4.3 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CCN(C)C)=O | C15H20N2O2
reactant | water | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 3-[1-acetyl-2,3-dihydro-1H-indol-5-yl]-3-hydroxy-N,N-dimethyl-1-propanamine | 3.3 g | C(C)(=O)N1CCC2=CC(=CC=C12)C(CCN(C)C)O | C15H22N2O2
